US08293744B2
Step 1: Preparation of 2-fluoropyridine-3-carbonyl choride:
2-Fluoropyridine-3-carboxylic acid (5.02 g, 35.6 mmol) was suspended in dichloromethane (100 mL), treated with thionyl chloride (13.0 mL, 178 mmol, 5 equiv) and N,N-dimethylformamide (0.138 mL, 1.78 mmol, 0.05 equiv) and placed into a preheated oil bath at 45° C. for 2 hours. The mixture was cooled to ambient temperature, concentrated in vacuo and the residue was concentrated from toluene (2×50 mL), providing the titled compound.

reactant | 2-Fluoropyridine-3-carboxylic acid | 35.6 mmol, 5.02 g | FC1=NC=CC=C1C(=O)O | C6H4FNO2
reactant | thionyl chloride | 178 mmol, 13.0 mL, 5 equiv | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 1.78 mmol, 0.138 mL, 0.05 equiv | CN(C=O)C | C3H7NO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-fluoropyridine-3-carbonyl choride | FC1=NC=CC=C1C(=O)Cl | C6H3ClFNO
